US09102692B2
Step 19: Synthesis of 6-cyclopropyl-1-(toluene-4-sulfonyl)-1H-indole-2-carboxylic acid methyl ester (1381)
Predetermined amounts of 6-bromo-1-(toluene-4-sulfonyl)-1H-indole-2-carboxylic acid methyl ester (300 mg, 0.73 mmol), palladium acetate (16.5 mg, 0.07 mmol), bis(1,1-dimethylethyl)phenylphosphine (0.028 ml, 0.12 mmol), potassium cyclopropyl trifluoro borate (163 mg, 1.1 mmol), and cesium carbonate (718 mg, 2.2 mmol) were placed in a reaction container, and toluene (5 ml) and water (0.5 ml) were added thereto. The resulting mixture was then stirred at 100° C. for 14 hours. After cooling it to room temperature, the mixture was diluted with ethyl acetate, and washed twice with water, and then dried over anhydrous sodium sulfate. The desiccant was removed by filtration, and concentration was performed. Then, the residue obtained by concentration under reduced pressure was purified by silica gel column chromatography (hexane/ethyl acetate=97/3 to 7/3). Thus, a yellow solid was obtained (208 mg, 77%).

reactant | 6-bromo-1-(toluene-4-sulfonyl)-1H-indole-2-carboxylic acid methyl ester | 0.73 mmol, 300 mg | COC(=O)C=1N(C2=CC(=CC=C2C1)Br)S(=O)(=O)C1=CC=C(C=C1)C | C17H14BrNO4S
reactant | bis(1,1-dimethylethyl)phenylphosphine | 0.12 mmol, 0.028 ml | CC(C)(C)P(C1=CC=CC=C1)C(C)(C)C | C14H23P
reactant | cesium carbonate | 2.2 mmol, 718 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 0.07 mmol, 16.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 0.5 ml | O | H2O
product | 6-cyclopropyl-1-(toluene-4-sulfonyl)-1H-indole-2-carboxylic acid methyl ester | COC(=O)C=1N(C2=CC(=CC=C2C1)C1CC1)S(=O)(=O)C1=CC=C(C=C1)C | C20H19NO4S
